US07244805B2
0.337 g (1.8 mmol) of 2,6-diethylaniline was suspended in 20 mL of ethanol and then, 0.77 mL (9.33 mmol) of concentrated hydrochloric acid was added to the obtained suspension. After stirring for 1 hour, the color of the suspension was changed from yellow to white. The suspension was filtered off and washed with diethyl ether to obtain 0.29 g of 2,6-diethylaniline hydrochloride. The obtained compound was dissolved in 100 mL of anhydrous ethanol in a flask at 70° C., and a solution of 0.485 g (0.785 mmol) of compound (20) obtained in Example 20 in 50 mL of anhydrous ethanol was added to the flask. The resultant yellow solution was stirred at 70° C. for 3 days to obtain yellow precipitates. The reaction mixture was cooled to room temperature and 30 mL of a saturated aqueous solution of sodium bicarbonate was added, and then after stirring for 2 minutes, 150 mL of toluene was added to the resultant product. The toluene layer collected by layer separation was dried over anhydrous magnesium sulfate and distilled under reduced pressure to obtain a yellow residue. The residue was purified by silica gel column chromatography using toluene as an elution solution to obtain 1,2-phenylenebis-4-(N-((o-(2,6-diethylphenyl)iminomethyl)phenyl)-2,6-diethylaniline) (compound (21)) (0.606 g).

reactant | 2,6-diethylaniline | 1.8 mmol, 0.337 g | C(C)C1=C(N)C(=CC=C1)CC | C10H15N
reactant | hydrochloric acid | 9.33 mmol, 0.77 mL | Cl | ClH
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 2,6-diethylaniline hydrochloride | 0.29 g | Cl.C(C)C1=C(N)C(=CC=C1)CC | InChI=1S/C10H15N.ClH/c1-3-8-6-5-7-9(4-2)10(8)11;/h5-7H,3-4,11H2,1-2H3;1H
